US06136823
Synthesis of 8-chloro-6-fluoro-1-(2,4-difluoro-5-methylaminophenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Methylamine Salt
8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-methylaminophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and a 40% aqueous solution (220 mg) of methylamine were added to pyridine (600 mg), and the mixture was stirred at room temperature for 5 hours. After the solvent was distilled off under reduced pressure, ethanol (1 ml) was added to the residue, and the mixture was stirred for 30 minutes. Deposits were collected by filtration and washed successively with ethanol and diisopropyl ether to obtain the title compound (92 mg) as a colorless powder.

reactant | 8-Chloro-6,7-difluoro-1-(2,4-difluoro-5-methylaminophenyl)-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)NC)F)F)C(=O)O)=O)F)F | C17H9ClF4N2O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 600 mg | N1=CC=CC=C1 | C5H5N
product | 8-chloro-6-fluoro-1-(2,4-difluoro-5-methylaminophenyl)-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid Methylamine Salt | 92 mg | CN.ClC=1C(=C(C=C2C(C(=CN(C12)C1=C(C=C(C(=C1)NC)F)F)C(=O)O)=O)F)NC | InChI=1S/C18H13ClF3N3O3.CH5N/c1-23-12-5-13(10(21)4-9(12)20)25-6-8(18(27)28)17(26)7-3-11(22)15(24-2)14(19)16(7)25;1-2/h3-6,23-24H,1-2H3,(H,27,28);2H2,1H3
